US07491724B2
Step 2. Tert-Butyl 4-(3-isopropylphenyl)-3,6-dihydropyridine-1(2H)-carboxylate
A mixture of tert-butyl 4-[(trifluoromethyl)sulfonyl]oxy-3,6-dihydropyridine-1(2H)-carboxylate (11.0 g, 0.0332 mol), (3-isopropylphenyl)boronic acid (5.44 g, 0.0332 mol) and potassium phosphate (21.1 g, 0.0996 mol) in tetrahydrofuran (150.0 mL, 1.849 mol) was degassed for 15 min, then tetrakis(triphenylphosphine)palladium(0) (2 g, 0.002 mol) was added and the resulting mixture was refluxed overnight. After evaporation of most of THF, the residue was diluted with water, extracted with EtOAc. The combined organic layers were washed with brine, dried and evaporated to dry. The residue was applied on silica gel column, eluting with 0 to 20% EtOAc in hexane (9.1 g, 91%). MS (ESI): (M−Bu) 246.1.

reactant | tert-butyl 4-[(trifluoromethyl)sulfonyl]oxy-3,6-dihydropyridine-1(2H)-carboxylate | 0.0332 mol, 11.0 g | FC(S(=O)(=O)OC=1CCN(CC1)C(=O)OC(C)(C)C)(F)F | C11H16F3NO5S
reactant | (3-isopropylphenyl)boronic acid | 0.0332 mol, 5.44 g | C(C)(C)C=1C=C(C=CC1)B(O)O | C9H13BO2
reactant | potassium phosphate | 0.0996 mol, 21.1 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | tetrahydrofuran | 1.849 mol, 150.0 mL | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.002 mol, 2 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Tert-Butyl 4-(3-isopropylphenyl)-3,6-dihydropyridine-1(2H)-carboxylate | C(C)(C)C=1C=C(C=CC1)C=1CCN(CC1)C(=O)OC(C)(C)C | C19H27NO2
